US04845030
1,2,3,4-Tetrahydroquinoline-N-propanesulphonic acid
48.8 molten propane-1,3-sultone were added dropwise at 60+ to 80° C. within the course of 50 minutes to 58.4 g 1,2,3,4-tetrahydroquinoline in a 500 ml. flask. The reaction mixture was left for 3.45 hours at about 70° C. and subsequently 470 ml. methanol were added portionwise under reflux conditions and further stirred under reflux conditions until the solid, glasslike under material had dissolved completely. Thereafter, the reaction mixture was cooled to ambient temperature, while stirring, a rapid crystallization thereby taking place. After leaving to stand for about 12 hours in a refrigerator, the crystals were filtered off. Yield about 50 g.; m.p. 233°-237° C.

reactant | propane-1,3-sultone | C1CCOS1(=O)=O | C3H6O3S
reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
solvent | methanol | CO | CH4O
product | 1,2,3,4-Tetrahydroquinoline-N-propanesulphonic acid | N1(CCCC2=CC=CC=C12)CCCS(=O)(=O)O | C12H17NO3S
